US09056859B2
4-(2-bromoethyl)benzonitrile
4-(2Hydroxyethyl)benzonitrile (3.0 g, 20 mmol) was combined with triphenylphosphine (6.42 g, 24.5 mmol) imidazole (1.39 g, 20.4 mmol) and carbon tetrabromide (8.11 g, 24.5 mmol) in DCM (10 mL) and stirred at 0° C., monitoring the reaction progress to completion by TLC. Silica gel was added to the mixture and the solvent was removed. Purification by MPLC eluting with 20% ethyl acetate/hexanes afforded the tide compound.

reactant | 4-(2Hydroxyethyl)benzonitrile | 20 mmol, 3.0 g | OCCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | triphenylphosphine | 24.5 mmol, 6.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 24.5 mmol, 8.11 g | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-bromoethyl)benzonitrile | BrCCC1=CC=C(C#N)C=C1 | C9H8BrN
